US03988458
Upon boiling a solution of 6.2 g 2-fluorobenzaldehyde and 13.0 g amidinoacetic acid ethyl ester in 150 ml ethanol for 1 hour, 2,6-diamino-4-(2-fluorophenyl)-1,4-dihydropyridine-3,5-dicarboxylic acid diethyl ester of m.p. 128°-130° C (ethanol) is obtained.

reactant | 2-fluorobenzaldehyde | 6.2 g | FC1=C(C=O)C=CC=C1 | C7H5FO
reactant | amidinoacetic acid ethyl ester | 13.0 g | C(C)OC(CC(N)=N)=O | C5H10N2O2
solvent | ethanol | 150 ml | C(C)O | C2H6O
product | 2,6-diamino-4-(2-fluorophenyl)-1,4-dihydropyridine-3,5-dicarboxylic acid diethyl ester | Yield: 49% | C(C)OC(=O)C1=C(NC(=C(C1C1=C(C=CC=C1)F)C(=O)OCC)N)N | C17H20FN3O4
